US08466114B2
To a stirred solution of acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[3-(3-amino-4-hydroxy-benzyl)-4-chloro-phenyl]-tetrahydro-pyran-2-ylmethyl ester (1.8 g, 3.2 mmol) in acetonitrile (15 mL) was added 2-chloroacrylonitrile (0.35 mL, 4.5 mmol) and potassium carbonate (882 mg, 6.4 mmol). After the reaction was refluxed overnight, the mixture was filtered through a celite bed. The filtrate was concentrated and purified by silica gel column chromatography to furnish acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(2-cyano-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester (440 mg).

reactant | acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[3-(3-amino-4-hydroxy-benzyl)-4-chloro-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 3.2 mmol, 1.8 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC(=C(C=C1)O)N)COC(C)=O | C27H30ClNO10
reactant | 2-chloroacrylonitrile | 4.5 mmol, 0.35 mL | ClC(C#N)=C | C3H2ClN
reactant | potassium carbonate | 6.4 mmol, 882 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(2-cyano-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 440 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC=1C=CC2=C(NCC(O2)C#N)C1)COC(C)=O | C30H31ClN2O10
